US07470680B2
N-(3-fluoro-2-nitrophenethyl)-1-benzylpiperidin-4-amine.
N-(1-Benzylpiperidin-4-yl)-2-(3-fluoro-2-nitrophenyl)acetamide (2.19 g, 5.90 mmol) was dissolved in tetrahydrofuran (40 ml). Mixture was warmed to 60° C. Chlorotrimethylsilane (2.7 ml, 21.27 mmol) was added to the mixture followed by lithium borohydride (7.2 ml, 14.40 mmol). Mixture was held at 60° C. for 2 hours with stirring. Reaction was quenched with 2 mL methanol. Water (4.0 ml, 222 mmol) was added to the mixture followed by concentrated hydrochloric acid (4.0 ml, 47.4 mmol). Mixture was warmed to reflux and held with stirring for 3 hours. Mixture was cooled to room temperature. Reaction was made basic with 5 mL 10N sodium hydroxide. Mixture stirred at room temperature for 15 minutes. Reaction layers were partitioned and the aqueous phase was discarded. Organic phase was concentrated by roto-vap. Silica gel chromatography eluting 2M ammonia in methanol-dichloromethane afforded the title compound as grey oil in 38% yield. MS (M+H)+=358.4.

reactant | N-(1-Benzylpiperidin-4-yl)-2-(3-fluoro-2-nitrophenyl)acetamide | 5.90 mmol, 2.19 g | C(C1=CC=CC=C1)N1CCC(CC1)NC(CC1=C(C(=CC=C1)F)[N+](=O)[O-])=O | C20H22FN3O3
reactant | Chlorotrimethylsilane | 21.27 mmol, 2.7 ml | Cl[Si](C)(C)C | C3H9ClSi
reactant | lithium borohydride | 14.40 mmol, 7.2 ml | [BH4-].[Li+]
reactant | Water | 222 mmol, 4.0 ml | O | H2O
reactant | hydrochloric acid | 47.4 mmol, 4.0 ml | Cl | ClH
reactant | sodium hydroxide | 10N, 5 mL | [OH-].[Na+]
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | N-(3-fluoro-2-nitrophenethyl)-1-benzylpiperidin-4-amine | 38% yield | FC=1C(=C(CCNC2CCN(CC2)CC2=CC=CC=C2)C=CC1)[N+](=O)[O-] | C20H24FN3O2
